US06552067B2
To a solution of 5-(3-oxo-4-phenyl-butyl)-pyrrolidin-2-one (5.902 g, 25.52 mmol) in EtOH (30 mL) at 0° C. was added NaBH4 (485 mg, 12.76 mmol) and the reaction mixture was stirred at 0° C. for 2.5 h. The reaction mixture was quenched with saturated aqueous ammonium chloride. Water and CH2Cl2 were added. The aqueous layer was washed with CH2Cl2 (2×) and the combined organic extracts were dried (MgSO4), filtered and concentrated. The residue was purified by medium pressure chromatography with a solvent gradient (1:1 hexanes:EtOAc to EtOAc to 1% MeOH in CH2Cl2) to yield 4.3 g of 5-(3-hydroxy-4-phenyl-butyl)-pyrrolidin-2-one. 1H NMR (CDCl3) δ7.35-7.16 (m, 5H), 6.02 (m, 1H), 3.80 (m, 1H), 3.63 (m, 1H), 2.79 (m, 1H), 2.64 (m, 1H), 2.26 (m, 3H), 1.72-1.22 (m, 6H).

reactant | 5-(3-oxo-4-phenyl-butyl)-pyrrolidin-2-one | 25.52 mmol, 5.902 g | O=C(CCC1CCC(N1)=O)CC1=CC=CC=C1 | C14H17NO2
reactant | NaBH4 | 12.76 mmol, 485 mg | [BH4-].[Na+]
solvent | EtOH | 30 mL | CCO | C2H6O
product | 5-(3-hydroxy-4-phenyl-butyl)-pyrrolidin-2-one | 4.3 g | OC(CCC1CCC(N1)=O)CC1=CC=CC=C1 | C14H19NO2
